US07094908B2
Methyl 3-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.14 g, 14%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.50 g, 2.64 mmol) and 4-t-butylphthalic anhydride (0.70 g, 3.43 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 2.64 mmol, 0.50 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | 4-t-butylphthalic anhydride | 3.43 mmol, 0.70 g | C(C)(C)(C)C=1C=C2C(C(=O)OC2=O)=CC1 | C12H12O3
product | Methyl 3-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | C(C)(C)(C)C=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C20H25NO6
